US04757102
[N,N-Dibenzylaminoxymethyl]di-n-butylamine
The procedure of Example I is repeated using 21.33 g of dibenzylhydroxylamine, 9.73 g of aqueous formaldehyde (37%) solution and 12.93 g of di-n-butylamine in acetonitrile to afford the title compound.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | formaldehyde | 9.73 g | C=O | CH2O
reactant | di-n-butylamine | 12.93 g | C(CCC)NCCCC | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | [N,N-Dibenzylaminoxymethyl]di-n-butylamine | C(C1=CC=CC=C1)N(OCN(CCCC)CCCC)CC1=CC=CC=C1 | C23H34N2O
